US08232395B2
73 mg (0.7 mmol) of potassium tert-butoxide were dissolved in 1 ml of NMP and admixed with a solution of 140 mg (0.5 mmol) of methyl 4-amino-3-(1-methylaminopyrimidin-4-yl)ethynylbenzoate in 1 ml of NMP. Subsequently, stirring was continued at RT for 24 h. Aqueous workup afforded 115 mg of methyl 2-(2-methylaminopyrimidin-4-yl)-1H-indole-5-carboxylate (HPLC: 92.3 area %).

reactant | potassium tert-butoxide | 0.7 mmol, 73 mg | CC(C)([O-])C.[K+]
reactant | methyl 4-amino-3-(1-methylaminopyrimidin-4-yl)ethynylbenzoate | 0.5 mmol, 140 mg | NC1=C(C=C(C(=O)OC)C=C1)C#CC1=NCN(C=C1)NC | C15H16N4O2
reactant | NMP | 1 ml | CN1CCCC1=O | C5H9NO
reactant | NMP | 1 ml | CN1CCCC1=O | C5H9NO
product | methyl 2-(2-methylaminopyrimidin-4-yl)-1H-indole-5-carboxylate | 115 mg | CNC1=NC=CC(=N1)C=1NC2=CC=C(C=C2C1)C(=O)OC | C15H14N4O2
